US06667312B2
N4-[2-(Methylthio)ethyl]quinoline-3,4-diamine (4.2 g, 19.2 mmol), trimethyl orthobutyrate (2.86 g, 19.2 mmol), pyridine hydrochloride (catalytic amount) and toluene were combined in a pressure vessel and heated at 140° C. for 1 hour. The reaction mixture was allowed to cool and then it was concentrated under reduced pressure to provide 4.9 g of 1-[2-(methylthio)ethyl]-2-propyl-1H-imidazo[4,5-c]quinoline.

reactant | N4-[2-(Methylthio)ethyl]quinoline-3,4-diamine | 19.2 mmol, 4.2 g | CSCCNC1=C(C=NC2=CC=CC=C12)N | C12H15N3S
reactant | trimethyl orthobutyrate | 19.2 mmol, 2.86 g | C(CCC)(OC)(OC)OC | C7H16O3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(methylthio)ethyl]-2-propyl-1H-imidazo[4,5-c]quinoline | 4.9 g | CSCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC | C16H19N3S
